US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), methanamine hydrochloride (186 mg, 2.76 mmol), diisopropylethylamine (627 μl, 3.59 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 407 μl, 690 μmol) in tetrahydrofurane (7.00 ml) is stirred for 4 hours at 70° C. and then over the weekend at 25° C. under nitrogen atmosphere. The solvent is evaporated and to the residue is added sat. aqueous sodium hydrogencarbonate solution. The mixture is stirred for 20 minutes while a white solid precipitates. The solid is collected by filtration, washed with diethylether and dried affording N4,1-dimethyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (69 mg, 66.6%) as a white solid. mp.: >250° C. MS: m/z=376.2 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | methanamine hydrochloride | 2.76 mmol, 186 mg | Cl.CN
reactant | diisopropylethylamine | 3.59 mmol, 627 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 690 μmol, 407 μl | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 7.00 ml | O1CCCC1 | C4H8O
product | N4,1-dimethyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 69 mg, 66.6% | CNC(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C | C19H17N7O2
